US06417200B1
B) 3-(4-t-butylbenzoylamino)thiophene-2-carboxylic acid
A mixture of methyl 3-(4-t-butylbenzoylamino)thiophene-2-carboxylate (9.67 g, 30 mmol), dioxane (75 mL) and 2 M sodium hydroxide (75 mL) was stirred for 16 h. The reaction was acidified to pH 2 with 5 M hydrochloric acid. The mixture was diluted with ethyl acetate and the aqueous layer was extracted with ethyl acetate (3 times). The combined organic layers was magnesium sulfate dried, filtered, and concentrated to afford the title compound as a solid (8.09 g, 89%); NMR(CDCl3) d 1.36(s, 9H), 7.54(d, 2H, J=8.4 Hz), 7.61(d, 1H, J=5.1 Hz), 7.92(d, 2H, J=8.4 Hz), 8.34(d, 1H, J=5.1 Hz), 11.04(s, 1H); MS(FD): 303.

reactant | methyl 3-(4-t-butylbenzoylamino)thiophene-2-carboxylate | 30 mmol, 9.67 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(SC=C2)C(=O)OC)C=C1 | C17H19NO3S
reactant | dioxane | 75 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 2 M, 75 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5 M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-t-butylbenzoylamino)thiophene-2-carboxylic acid | 8.09 g, 89% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(SC=C2)C(=O)O)C=C1 | C16H17NO3S
